US04073900
One gram of 17-acetoxy-11β-fluoro-4-pregnene-3,20-dione is combined in a solvent mixture of 6 ml. of ethylene chloride and 10 ml. of tert.-butanol with 1.5 g. of chloranil and 10 mg. of p-toluenesulfonic acid. The mixture is heated for 6 hours under reflux. Then, the mixture is filtered off from the chloranil and the precipitate washed with ethyl acetate and ether. The filtrate is diluted with ether and combined repeatedly with 2N NaOH solution. The solution is then washed neutral with water and dried. After chromatography of the crude product on silica gel with 14- 17% acetone/hexane, 344 mg. of 17-acetoxy-11β-fluoro-4,6-pregnadiene-3,20-dione is obtained; m.p. 220°-222° C. from acetone/hexane. UV: ε280 = 26,500.

reactant | 17-acetoxy-11β-fluoro-4-pregnene-3,20-dione | One gram | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)F)=O | C23H31FO4
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
reactant | chloranil | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tert.-butanol | C(C)(C)(C)O | C4H10O
product | 17-acetoxy-11β-fluoro-4,6-pregnadiene-3,20-dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=CC4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)F)=O | C23H29FO4
